US06670447B2
Synthesis of N-decanoyl-L-alanine-(S)-1-(p-tolyl)ethylamide (Compound No. 38)
(S)-3-Decanoyl-4-methyl-2,5-oxazolidinedione (N-decanoyl-L-alanine-NCA) (100 mg, 0.37 mmol) was dissolved in tetrahydrofuran (3 mL), and at 0° C., (S)-1-(p-tolyl)ethylamine (49 mg, 0.36 mmol) and N-methylmorpholine (37 mg, 0.36 mmol) were added, followed by stirring for 30 minutes. The reaction mixture was treated in a similar manner as in Example 19 to afford the title compound (103 mg, 77%) as white crystals.

reactant | (S)-3-Decanoyl-4-methyl-2,5-oxazolidinedione | 0.37 mmol, 100 mg | C(CCCCCCCCC)(=O)N1C(OC([C@@H]1C)=O)=O | C14H23NO4
reactant | (S)-1-(p-tolyl)ethylamine | 0.36 mmol, 49 mg | C1(=CC=C(C=C1)[C@H](C)N)C | C9H13N
reactant | N-methylmorpholine | 0.36 mmol, 37 mg | CN1CCOCC1 | C5H11NO
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | N-decanoyl-L-alanine-(S)-1-(p-tolyl)ethylamide | 103 mg, 77% | C1(=CC=C(C=C1)[C@H](C)NC([C@@H](NC(CCCCCCCCC)=O)C)=O)C | C22H36N2O2
